US04008244
Zinc Bis(5-methyl-2-trichloromethyloxazolidine-3-carbodithioate)
A mixture of 412.0 g. (4.0 moles) triethylamine, 60.8 g. (0.8 mole) carbon disulfide, 73.2 g. (0.4 mole) anhydrous zinc acetate and 163.6 g. (0.8 mole) 5-methyl-2-trichloromethyloxazolidine was stirred at 40° C. for 1 hour. After standing overnight at room temperature, the reaction mixture was diluted with water and filtered to give 417.8 g. of the desired crude product sintering at 89° C. and melting with decomposition at 128°-150° C. Extraction with chloroform and repeated crystallization from benzene gave an analytical sample melting at 170°-176° C. with decomposition. It had the following analysis: Found: N, 4.30; Zn, 10.16. Calc. for C12H14Cl6N2O2S4Zn: N, 4.48; Zn, 10.47.

reactant | triethylamine | 4.0 moles | C(C)N(CC)CC | C6H15N
reactant | carbon disulfide | 0.8 mole | C(=S)=S | CS2
reactant | zinc acetate | 0.4 mole | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
reactant | 5-methyl-2-trichloromethyloxazolidine | 0.8 mole | CC1CNC(O1)C(Cl)(Cl)Cl | C5H8Cl3NO
reactant | Zn | [Zn] | Zn
solvent | water | O | H2O
product | Zinc Bis(5-methyl-2-trichloromethyloxazolidine-3-carbodithioate) | CC1CN(C(O1)C(Cl)(Cl)Cl)C(=S)[S-].CC1CN(C(O1)C(Cl)(Cl)Cl)C(=S)[S-].[Zn+2] | InChI=1S/2C6H8Cl3NOS2.Zn/c2*1-3-2-10(5(12)13)4(11-3)6(7,8)9;/h2*3-4H,2H2,1H3,(H,12,13);/q;;+2/p-2
